US08420632B2
15 ml of a solution of hydrochloric acid in isopropanol, having a concentration of 5-6N are added dropwise to a solution of 2.7 g (7.4 mmol) of methyl (S)-3-tert-butoxycarbonylamino-2-(4-methanesulfonylpiperazin-1-yl)propanoate in 30 ml of methanol. The reaction medium is stirred at 40° C. for 2 h, concentrated under vacuum, and then taken up in 20 ml of methanol and 150 ml of diethyl ether. The product precipitates, and is filtered off under vacuum, rinsed with diethyl ether and then dried under vacuum. 2.3 g (100%) of methyl (S)-3-amino-2-(4-methanesulfonylpiperazin-1-yl)propanoate hydrochloride are obtained in the form of a white solid.

reactant | hydrochloric acid | Cl | ClH
reactant | methyl (S)-3-tert-butoxycarbonylamino-2-(4-methanesulfonylpiperazin-1-yl)propanoate | 7.4 mmol, 2.7 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)OC)N1CCN(CC1)S(=O)(=O)C | C14H27N3O6S
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | methanol | 30 ml | CO | CH4O
product | methyl (S)-3-amino-2-(4-methanesulfonylpiperazin-1-yl)propanoate hydrochloride | 2.3 g, 100% | Cl.NC[C@@H](C(=O)OC)N1CCN(CC1)S(=O)(=O)C | InChI=1S/C9H19N3O4S.ClH/c1-16-9(13)8(7-10)11-3-5-12(6-4-11)17(2,14)15;/h8H,3-7,10H2,1-2H3;1H/t8-;/m0./s1
